US05202435
To a 250 mL flask equipped with thermometer, condenser, and nitrogen inlet were added 25 grams (0.0585 moles) moricizine and 120 mL (2.048 moles, 35 equivalents) absolute ethanol. The mixture was stirred and heated at 65-80° C. for about 15 minutes, after which time the moricizine was fully dissolved. The heat was turned off and the mixture was allowed to cool with stirring under ambient conditions. When the temperature reached about 35° C., 7.0 grams hydrochloric acid (36.5% HCl, 0.07 moles HCl, 1.2 equivalents HCl) were added. After a precipitate became visible, the mixture was cooled with an ice water bath to about 0° C, maintained at that temperature for about one hour, and then filtered. The solids were dried in a vacuum oven overnight at 50-55° C. to provide 21.98 grams (81% yield) of substantially non-hydrated moricizine hydrochloride. Substantially non-hydrated moricizine hydrochloride was obtained as a white powder having a melt range of 214-217° C., and one strong, sharp peak at about 215° C. on differential scanning calorimetry.

reactant | moricizine | 0.0585 moles, 25 grams | CCOC(=O)NC=1C=CC2=C(C1)N(C=3C=CC=CC3S2)C(=O)CCN4CCOCC4 | C22H25N3O4S
reactant | ethanol | 2.048 moles, 120 mL, 35 equivalents | C(C)O | C2H6O
reactant | hydrochloric acid | 0.07 moles, 7.0 grams, 1.2 equivalents | Cl | ClH
product | moricizine hydrochloride | 81% yield | CCOC(=O)NC=1C=CC2=C(C1)N(C=3C=CC=CC3S2)C(=O)CCN4CCOCC4.Cl | InChI=1S/C22H25N3O4S.ClH/c1-2-29-22(27)23-16-7-8-20-18(15-16)25(17-5-3-4-6-19(17)30-20)21(26)9-10-24-11-13-28-14-12-24;/h3-8,15H,2,9-14H2,1H3,(H,23,27);1H
